US05141951
1.2 5-Oxo-5(4-phenoxyphenyl)-pentanoic acid ethyl ester
93 g aluminium chloride are added over 15 minutes at -10° C. to a solution of 52.0 g glutaric acid monoethyl ester chloride [Cl--CO--(CH2)3 --COOC2H5 ]. The mixture is stirred for 15 mins. at 0° to 10° C. and then added portion-wise over a period of 20 mins. at -5° to 10° C. to a pre-prepared solution of 50.0 g diphenylether in 150 ml dichloroethane. The reaction mixture is allowed to rise slowly to room temperature and is then stirred for 12 hours, poured onto ice and shaken well with H2O/methylene chloride. The organic phase is washed thouroughly with H2O and saturated NaHCO3 solution, dried over MgSO4 and the solvent evaporated off. The obtained light yellow oil is crystallised from hexane/ethyl ether on an ice bath: m.p.=61°-62° C.

reactant | aluminium chloride | 93 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | glutaric acid monoethyl ester chloride | 52.0 g | [Cl-].C(C)OC(CCCC(=O)O)=O
reactant | diphenylether | 50.0 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | H2O methylene chloride | O.C(Cl)Cl
solvent | dichloroethane | 150 ml | ClC(C)Cl | C2H4Cl2
product | 5-Oxo-5(4-phenoxyphenyl)-pentanoic acid ethyl ester | C(C)OC(CCCC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O)=O | C19H20O4
